US08350033B2
Adding 2-bromomethyl-3,5,6-trimethylpyrazine (0.44 g, 0.002 mol), syringic acid ethyl ester (0.54 g, 0.0024 mol), anhydrous potassium carbonate (0.72 g, 0.005 mol), and DMF (20 mL) into a 100 mL three-necked bottle in turn, wherein the solution appears orange and turbid, irradiating with incandescent lamp, heating to 90° C., stifling to react for 12 hours, TLC [V(petroleum ether):V(ethyl acetate)=3:1 as developing agent] detecting shows that reaction is complete, (Rf of raw material=0.7, Rf of product=0.5), and the reaction solution appears deep yellow, filtering to obtain orange filtrate, adding 30 mL water, extracting with chloroform (3×30 mL), incorporating the chloroform layer and wishing with water (2×20 mL), drying with anhydrous sodium sulfate, recycling chloroform under reduced pressure to obtain a light yellow oily matter, separating with a silica column, wherein eluant is V(cyclohexane):V(ethyl acetate)=3:1, collecting product, recycling the solution under reduced pressure to obtain 0.45 g light yellow 4-((3,5,6-trimethylpyrazine-2-yl)methoxyl)-3,5-dimethoxybenzoic acid ethyl ester, a yield is 61.6%, m.p. 121.7-123.2° C.

reactant | 2-bromomethyl-3,5,6-trimethylpyrazine | 0.002 mol, 0.44 g | BrCC1=NC(=C(N=C1C)C)C | C8H11BrN2
reactant | syringic acid ethyl ester | 0.0024 mol, 0.54 g | C(C)OC(C1=CC(OC)=C(O)C(OC)=C1)=O | C11H14O5
reactant | potassium carbonate | 0.005 mol, 0.72 g | C([O-])([O-])=O.[K+].[K+]
reactant | DMF | 20 mL | CN(C)C=O | C3H7NO
solvent | water | 30 mL | O | H2O
product | 4-((3,5,6-trimethylpyrazine-2-yl)methoxyl)-3,5-dimethoxybenzoic acid ethyl ester | yield is 61.6% | C(C)OC(C1=CC(=C(C(=C1)OC)OCC1=NC(=C(N=C1C)C)C)OC)=O | C19H24N2O5
